US08304557B2
(iii) N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide
To a solution of 3-(1-cyanocyclopropyl)benzoyl chloride synthesized above in N,N-dimethylacetamide (50 mL) was added 5-(3-aminophenoxy)pyridin-2-amine dihydrochloride (3.5 g, 12.7 mmol), and the mixture was stirred at room temperature for 18 hr. 5% Aqueous sodium hydrogen carbonate solution (200 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with saturated brine (100 mL) and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/50→0/100), and triturated with ethyl acetate and hexane to give the title compound (3.84 g, 75%) as a colorless solid.

reactant | 3-(1-cyanocyclopropyl)benzoyl chloride | C(#N)C1(CC1)C=1C=C(C(=O)Cl)C=CC1 | C11H8ClNO
reactant | 5-(3-aminophenoxy)pyridin-2-amine dihydrochloride | 12.7 mmol, 3.5 g | Cl.Cl.NC=1C=C(OC=2C=CC(=NC2)N)C=CC1
reactant | sodium hydrogen carbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
product | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 3.84 g, 75% | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C1(CC1)C#N)=O | C22H18N4O2
